US07132391B2
Treatment of 2,2,4-trimethylpentan-1,3-diol with prenyl chloride employing the alkylation reaction conditions described above provided 1-(3-methyl-2-butenyloxy)-2,2,4-trimethylpentan-3-ol in 92.0% yield (393.8 g, b.p.=82–84 C./0.8 mmHg).

reactant | 2,2,4-trimethylpentan-1,3-diol | CC(CO)(C(C(C)C)O)C | C8H18O2
reactant | prenyl chloride | C(C=C(C)C)Cl | C5H9Cl
product | 1-(3-methyl-2-butenyloxy)-2,2,4-trimethylpentan-3-ol | 92.0% yield | CC(=CCOCC(C(C(C)C)O)(C)C)C | C13H26O2
